US07985769B2
To a solution of 3-(4-Chloro-2,5-dimethyl-benzenesulfonylamino)-5-phenyl-thiophene-2-carboxylic acid methyl ester (100 mg, 0.229 mmol) in anhydrous DMF (6 mL), 3-iodobenzyl bromide (82 mg, 0.276 mmol) and cesium carbonate (88 mg, 0.276 mmol) were added and the reaction mixture was stirred at room temperature under a N2 atmosphere for 12 h. The reaction mixture was partitioned between water and ether. The ether layer was separated, dried (Na2SO4), concentrated. The residue was purified by silica gel column chromatography using ethyl acetate and hexane (1:3) as eluent to obtain 3-[(4-Chloro-2,5-dimethyl-benzenesulfonyl)-(3-iodo-benzyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester (130 mg, 87%) as a syrup.

reactant | 3-(4-Chloro-2,5-dimethyl-benzenesulfonylamino)-5-phenyl-thiophene-2-carboxylic acid methyl ester | 0.229 mmol, 100 mg | COC(=O)C=1SC(=CC1NS(=O)(=O)C1=C(C=C(C(=C1)C)Cl)C)C1=CC=CC=C1 | C20H18ClNO4S2
reactant | 3-iodobenzyl bromide | 0.276 mmol, 82 mg | IC=1C=C(CBr)C=CC1 | C7H6BrI
reactant | cesium carbonate | 0.276 mmol, 88 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 3-[(4-Chloro-2,5-dimethyl-benzenesulfonyl)-(3-iodo-benzyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester | 130 mg, 87% | COC(=O)C=1SC(=CC1N(CC1=CC(=CC=C1)I)S(=O)(=O)C1=C(C=C(C(=C1)C)Cl)C)C1=CC=CC=C1 | C27H23ClINO4S2
